.subckt fsdprbq_fv1_x1 Q CK D SI SE RD VDD VSS
XFSDPRBQ_FV1_sei_P0 FSDPRBQ_FV1_se_b SE VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_sei_N0 FSDPRBQ_FV1_se_b SE VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_smx_MP0 FSDPRBQ_FV1_din SE D VDD pmos w=2u l=100n
XFSDPRBQ_FV1_smx_MN0 FSDPRBQ_FV1_din FSDPRBQ_FV1_se_b D VSS nmos w=1u l=100n
XFSDPRBQ_FV1_smx_MP1 FSDPRBQ_FV1_din FSDPRBQ_FV1_se_b SI VDD pmos w=2u l=100n
XFSDPRBQ_FV1_smx_MN1 FSDPRBQ_FV1_din SE SI VSS nmos w=1u l=100n
XFSDPRBQ_FV1_ck_P0 FSDPRBQ_FV1_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_ck_N0 FSDPRBQ_FV1_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_m_in_P FSDPRBQ_FV1_m_n1 CK FSDPRBQ_FV1_din VDD pmos w=2u l=100n
XFSDPRBQ_FV1_m_in_N FSDPRBQ_FV1_m_n1 FSDPRBQ_FV1_ck_b FSDPRBQ_FV1_din VSS nmos w=1u l=100n
XFSDPRBQ_FV1_m_i1_P0 FSDPRBQ_FV1_m_n2 FSDPRBQ_FV1_m_n1 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_m_i1_N0 FSDPRBQ_FV1_m_n2 FSDPRBQ_FV1_m_n1 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_m_i2_P0 FSDPRBQ_FV1_m_n1 FSDPRBQ_FV1_m_n2 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_m_i2_N0 FSDPRBQ_FV1_m_n1 FSDPRBQ_FV1_m_n2 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_m_fb_P FSDPRBQ_FV1_m_n1 FSDPRBQ_FV1_ck_b FSDPRBQ_FV1_m_n2 VDD pmos w=2u l=100n
XFSDPRBQ_FV1_m_fb_N FSDPRBQ_FV1_m_n1 CK FSDPRBQ_FV1_m_n2 VSS nmos w=1u l=100n
XFSDPRBQ_FV1_m_o_P0 FSDPRBQ_FV1_qm FSDPRBQ_FV1_m_n2 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_m_o_N0 FSDPRBQ_FV1_qm FSDPRBQ_FV1_m_n2 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_s_in_P FSDPRBQ_FV1_s_n1 FSDPRBQ_FV1_ck_b FSDPRBQ_FV1_qm VDD pmos w=2u l=100n
XFSDPRBQ_FV1_s_in_N FSDPRBQ_FV1_s_n1 CK FSDPRBQ_FV1_qm VSS nmos w=1u l=100n
XFSDPRBQ_FV1_s_i1_P0 FSDPRBQ_FV1_s_n2 FSDPRBQ_FV1_s_n1 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_s_i1_N0 FSDPRBQ_FV1_s_n2 FSDPRBQ_FV1_s_n1 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_s_i2_P0 FSDPRBQ_FV1_s_n1 FSDPRBQ_FV1_s_n2 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_s_i2_N0 FSDPRBQ_FV1_s_n1 FSDPRBQ_FV1_s_n2 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_s_fb_P FSDPRBQ_FV1_s_n1 CK FSDPRBQ_FV1_s_n2 VDD pmos w=2u l=100n
XFSDPRBQ_FV1_s_fb_N FSDPRBQ_FV1_s_n1 FSDPRBQ_FV1_ck_b FSDPRBQ_FV1_s_n2 VSS nmos w=1u l=100n
XFSDPRBQ_FV1_s_o_P0 Q FSDPRBQ_FV1_s_n2 VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_s_o_N0 Q FSDPRBQ_FV1_s_n2 VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_rdi_P0 FSDPRBQ_FV1_rd_b RD VDD VDD pmos w=2u l=100n
XFSDPRBQ_FV1_rdi_N0 FSDPRBQ_FV1_rd_b RD VSS VSS nmos w=1u l=100n
XFSDPRBQ_FV1_rcl Q FSDPRBQ_FV1_rd_b VSS VSS nmos w=1u l=100n
.ends fsdprbq_fv1_x1
